US07598257B2
To 4-(1H-pyrazol-4-yl)-7-[2-(trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]pyrimidine (0.500 g, 0.00158 mol) in 8.0 mL of dry ACN was added DBU (0.24 mL, 0.0016 mol) followed by addition of (2Z)-3-(3-nitrophenyl)acrylonitrile (0.36 g, 0.0021 mol) in 2.0 mL of ACN. The reaction mixture was heated at 67° C. for 18 hours. This was cooled to room temperature, and the mixture was partitioned between diluted hydrochloric acid and ethyl acetate. The organic layer was washed with saturated sodium chloride, dried over anhydrous magnesium sulfate, and concentrated. The crude product was purified by flash chromatography on silica gel using ethyl acetate-hexanes 6:4, to give 3-(3-nitrophenyl)-3-[4-(7-[2-(trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]propanenitrile as a dark orange oil, (688 mg, 88.65%). LCMS (M+1)+: 490

reactant | 4-(1H-pyrazol-4-yl)-7-[2-(trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]pyrimidine | 0.00158 mol, 0.500 g | N1N=CC(=C1)C=1C2=C(N=CN1)N(C=C2)COCC[Si](C)(C)C | C15H21N5OSi
reactant | DBU | 0.0016 mol, 0.24 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | (2Z)-3-(3-nitrophenyl)acrylonitrile | 0.0021 mol, 0.36 g | [N+](=O)([O-])C=1C=C(C=CC1)\C=C/C#N | C9H6N2O2
solvent | ACN | 8.0 mL | C(C)#N | C2H3N
solvent | ACN | 2.0 mL | C(C)#N | C2H3N
product | 3-(3-nitrophenyl)-3-[4-(7-[2-(trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]propanenitrile | [N+](=O)([O-])C=1C=C(C=CC1)C(CC#N)N1N=CC(=C1)C=1C2=C(N=CN1)N(C=C2)COCC[Si](C)(C)C | C24H27N7O3Si
